US04933458
In a mixture of 10 ml of chloroform and 10 ml of methanol was dissolved 1.73 g of 2-(2-dimethylaminobenzylthio)-3-methylquinoxaline hydrochloride. To the chilled solution kept at a temperature of lower than 0° C. (temperature of solution) was portionwise added 1.14 g of m-chloroperbenzoic acid (purity: 80%). After the reaction was complete, chloroform and saturated aqueous NaHCO3 solution were added to the reaction mixture. The organic layer was separated and dried over sodium sulfate. The sodium sulfate was then removed by filtration, and the solvent was evaporated under reduced pressure from the filtrate. The residue was purified by silica gel column chromatography (chloroform/methanol), and recrystallized from ethyl acetate/hexane to give 0.51 g of 2-(2-dimethylaminobenzylsulfinyl)-3-methylquinoxaline as a pale brown crystalline powder, m.p. 68°-70° C. (decompn.).

reactant | 2-(2-dimethylaminobenzylthio)-3-methylquinoxaline hydrochloride | 1.73 g | Cl.CN(C1=C(CSC2=NC3=CC=CC=C3N=C2C)C=CC=C1)C
reactant | m-chloroperbenzoic acid | 1.14 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 ml | CO | CH4O
product | 2-(2-dimethylaminobenzylsulfinyl)-3-methylquinoxaline | 0.51 g | CN(C1=C(CS(=O)C2=NC3=CC=CC=C3N=C2C)C=CC=C1)C | C18H19N3OS
